US05939431
B. 8-Chloro-6-(3-methyl-2-pyridinyl)-1,7-naphthyridine
Heat a mixture of 8-oxo-6-(3-methyl-2-pyridinyl)-1,7-naphthyridine (16.4 g, 69.1 mmol) in phosphorus oxychloride (200 mL) on a steam bath for 3 hours. Remove excess phosphorus oxychloride under reduced pressure, cool in an ice-water bath and add ice (100 g) and water (100 mL). Add concentrated ammonium hydroxide to neutralize the solution, while maintaining the temperature below 10° C. Filter the resultant mixture, air dry the solids and triturate with boiling benzene (1 L). Concentrate the mixture, filter and crystallize the isolated solid from benzene to obtain the title compound, mp 130-1° C.

reactant | 8-oxo-6-(3-methyl-2-pyridinyl)-1,7-naphthyridine | 69.1 mmol, 16.4 g | O=C1NC(=CC=2C=CC=NC12)C1=NC=CC=C1C | C14H11N3O
reactant | water | 100 mL | O | H2O
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | phosphorus oxychloride | 200 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-Chloro-6-(3-methyl-2-pyridinyl)-1,7-naphthyridine | ClC=1N=C(C=C2C=CC=NC12)C1=NC=CC=C1C | C14H10ClN3
